US09107916B2
A. 2-(5-Hydroxy-3-propyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile
The title compound was prepared in 44% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 3-oxohexanoate according to the procedure for the preparation of Example 3, part A. [M+H] Calc'd for C12H12N4O, 229. Found, 229.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 3-oxohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | 2-(5-Hydroxy-3-propyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 44% yield | OC1=CC(=NN1C1=NC=CC(=C1)C#N)CCC | C12H12N4O
